US04420555
Part B--Preparation of N-Ethyl-N-(2-isopropoxycarbonylethyl)-m-toluidine
A mixture of 13.5 g (0.1 mole) N-ethyl-m-toluidine, 11.4 g (0.1 mole) isopropyl acrylate and 2 ml glacial acetic acid was heated over the steam bath for 16 hours. The mixture was cooled and diluted with ether. The ether solution was washed with 10 ml water, twice with 10 ml portions of 5% sodium carbonate solution, once with 10 ml of water and then dried over sodium sulfate. Removal of the ether with a rotary evaporator at 50° C. and reduced pressure gave 22.0 g (86%) of oil, which was pure by thin layer chromatography and was used as isolated.

reactant | N-ethyl-m-toluidine | 0.1 mole, 13.5 g | C(C)NC1=CC(=CC=C1)C | C9H13N
reactant | isopropyl acrylate | 0.1 mole, 11.4 g | C(C=C)(=O)OC(C)C | C6H10O2
reactant | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
solvent | ether | CCOCC | C4H10O
product | N-Ethyl-N-(2-isopropoxycarbonylethyl)-m-toluidine | 22.0 g, 86% | C(C)N(C1=CC(=CC=C1)C)CCC(=O)OC(C)C | C15H23NO2
